### PR TITLE
[Merged by Bors] - feat: port LinearAlgebra.DirectSum.Finsupp

### PR DESCRIPTION
**Pull request by Parcly-Taxel**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/LinearAlgebra/DirectSum/Finsupp.lean [hunk 1]
```diff
@@ -0,0 +1,114 @@
...
+! if you have ported upstream changes.
+-/
+import Mathlib.Algebra.DirectSum.Finsupp
+import Mathlib.LinearAlgebra.Finsupp
+import Mathlib.LinearAlgebra.DirectSum.TensorProduct
+
+/-!
+# Results on finitely supported functions.
+
+The tensor product of ι →₀ M and κ →₀ N is linearly equivalent to (ι × κ) →₀ (M ⊗ N).
```
Comment (dupuisf) [inline Mathlib/LinearAlgebra/DirectSum/Finsupp.lean:18]:
```suggestion

The tensor product of `ι →₀ M` and `κ →₀ N` is linearly equivalent to `(ι × κ) →₀ (M ⊗ N)`.
```

File: Mathlib/LinearAlgebra/DirectSum/Finsupp.lean [hunk 2]
```diff
@@ -0,0 +1,114 @@
...
+
+section TensorProduct
+
+open TensorProduct
+
+open TensorProduct Classical
+
+set_option synthInstance.etaExperiment true -- Porting note: gets around lean4#2074
+
+/-- The tensor product of ι →₀ M and κ →₀ N is linearly equivalent to (ι × κ) →₀ (M ⊗ N). -/
```
Comment (dupuisf) [inline Mathlib/LinearAlgebra/DirectSum/Finsupp.lean:41]:
```suggestion
/-- The tensor product of `ι →₀ M` and `κ →₀ N` is linearly equivalent to `(ι × κ) →₀ (M ⊗ N)`. -/
```

File: Mathlib/LinearAlgebra/DirectSum/Finsupp.lean [hunk 3]
```diff
@@ -0,0 +1,114 @@
...
+
+@[simp]
+theorem finsuppTensorFinsupp'_single_tmul_single (a : α) (b : β) (r₁ r₂ : S) :
+    finsuppTensorFinsupp' S α β (Finsupp.single a r₁ ⊗ₜ[S] Finsupp.single b r₂) =
+      Finsupp.single (a, b) (r₁ * r₂) := by
+  ext ⟨a', b'⟩
+  -- Porting note: was simp [Finsupp.single_apply, ite_and] from here on out
+  simp only [finsuppTensorFinsupp'_apply_apply, Finsupp.single_apply, mul_ite, ite_mul, zero_mul,
+      mul_zero, Prod.mk.injEq, ite_and]
+  split <;> simp_all only [ite_self]
```
Comment (dupuisf) [inline Mathlib/LinearAlgebra/DirectSum/Finsupp.lean:111]:
```suggestion
  aesop (add norm [Finsupp.single_apply])
```

File: Mathlib/LinearAlgebra/DirectSum/Finsupp.lean (hunk 1 above)
Comment (dupuisf) [reply Mathlib/LinearAlgebra/DirectSum/Finsupp.lean:18]: I know it was already like this in the original file, but we might as well fix it anyway.

**Review by dupuisf — COMMENTED** [review]
Thanks!

bors r+
